US07459448B2
Methyl 2-amino-5-methoxybenzoate (i-e)
Hydrogen chloride gas was bubbled through a solution of 2-amino-5-methoxybenzoic acid (5.0 g, 30 mmol) in MeOH (200 mL) for 30 minutes. The solution was heated at 60° C. overnight. The reaction was cooled and the solvent removed in vacuo. The residue was dissolved in water, basified with 5M NaOH and extracted twice with ether. The ether extracts were washed with 5M NaOH and water, dried (MgSO4), filtered and concentrated in vacuo to give i-e (4.25 g, 78%): MS m/z═182 (M+H).

reactant | Hydrogen chloride | Cl | ClH
reactant | 2-amino-5-methoxybenzoic acid | 30 mmol, 5.0 g | NC1=C(C(=O)O)C=C(C=C1)OC | C8H9NO3
reactant | MeOH | 200 mL | CO | CH4O
product | Methyl 2-amino-5-methoxybenzoate | NC1=C(C(=O)OC)C=C(C=C1)OC | C9H11NO3
